US07786141B2
To a solution of ((S)-1-((S)-1-phenylethyl)pyrrolidin-3-yl)methanol (42.2 g, 0.194 mol) and (Boc)2O (69.4 g, 0.292 mol) in methanol (300 mL) was added Pd(OH)2/C (5 g). The resultant mixture was heated to 50° C. at 50 psi under H2 and stirred overnight then cooled to room temperature. Pd(OH)2/C was filtered and the filtrate was evaporated under reduced pressure to give a residue which was purified by column chromatography (P.E./EtOAc 5:1) to give (S)-tert-butyl 3-(hydroxymethyl)pyrrolidine-1-carboxylate. 1H NMR (300 MHz, CDCl3) δ 3.60-3.63 (m, 2H), 3.29-3.52 (m, 3H), 3.07-3.13 (m, 1H), 2.37-2.42 (m, 1H), 1.94-1.98 (m, 1H), 1.62-1.70 (m, 1H), 1.45 (s, 9H).

reactant | ((S)-1-((S)-1-phenylethyl)pyrrolidin-3-yl)methanol | 0.194 mol, 42.2 g | C1(=CC=CC=C1)[C@H](C)N1C[C@H](CC1)CO | C13H19NO
reactant | (Boc)2O | 0.292 mol, 69.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 300 mL | CO | CH4O
catalyst | Pd(OH)2/C | 5 g | [OH-].[OH-].[Pd+2]
product | (S)-tert-butyl 3-(hydroxymethyl)pyrrolidine-1-carboxylate | OC[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H19NO3
